US04140709
6-Hydroxyhexyl perfluoroisopropyl ether sodium sulfate
A 100 ml four-necked flask fitted with a stirrer, thermometer, addition funnel and gas inlet was charged with 24.1 g (0.08 m) of 6-hydroxyhexyl perfluoroisopropyl ether, cooled under nitrogen to 15° C. and held for one half hour. Chlorosulfonic acid (10.3 g, 0.08 m) was added over a period of 30 minutes with stirring while maintaining the temperature at 15°-20° C., reaction was quite exothermic. Stirring was continued for one hour when the addition was completed. The reaction mixture was poured into a solution of 6.9 g of 50% sodium hydroxide in 68 g of cold water. The resulting solution was clear and colorless containing 27.2% by weight of 6-hydroxy perfluoroisopropyl ether sodium sulfate and was designated as Product I (A).

reactant | 6-hydroxyhexyl perfluoroisopropyl ether | 24.1 g | FC(C(F)(F)F)(C(F)(F)F)OCCCCCCO | C9H13F7O2
reactant | Chlorosulfonic acid | 10.3 g | ClS(=O)(=O)O | ClHO3S
reactant | sodium hydroxide | 6.9 g | [OH-].[Na+]
solvent | water | 68 g | O | H2O
product | 6-Hydroxyhexyl perfluoroisopropyl ether sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].FC(C(F)(F)F)(C(F)(F)F)OCCCCCCO.[Na+] | InChI=1S/C9H13F7O2.2Na.H2O4S/c10-7(8(11,12)13,9(14,15)16)18-6-4-2-1-3-5-17;;;1-5(2,3)4/h17H,1-6H2;;;(H2,1,2,3,4)/q;2*+1;/p-2
